US07728150B2
Ethanesulfonic acid [3-(1-ethyl-5-fluoro-indan-1-yl)-1H-indol-7-yl]-amide
Utilizing 3-(1-ethyl-5-fluoro-indan-1-yl)-1H-indol-7-ylamine and ethanesulfonyl chloride, the title compound is prepared as in example 15. 0.18 g (35%). LC-MS m/z 387.1 (M++1).

reactant | 3-(1-ethyl-5-fluoro-indan-1-yl)-1H-indol-7-ylamine | C(C)C1(CCC2=CC(=CC=C12)F)C1=CNC2=C(C=CC=C12)N | C19H19FN2
reactant | ethanesulfonyl chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
product | Ethanesulfonic acid [3-(1-ethyl-5-fluoro-indan-1-yl)-1H-indol-7-yl]-amide | C(C)C1(CCC2=CC(=CC=C12)F)C1=CNC2=C(C=CC=C12)NS(=O)(=O)CC | C21H23FN2O2S
